US07915424B2
5-(3-Fluorophenylethynyl)-nicotinonitrile
Add bis(triphenylphosphine)palladium (II) dichloride (390 mg, 0.56 mmol), copper (I) iodide (211 mg, 1.11 mmol), and 5-ethynylnicotinonitrile (1.50 g, 11.7 mmol), (prepared essentially as described in PREPARATION 4), to a solution of 1-fluoro-3-iodobenzene (1.31 mL, 11.1 mmol) in triethylamine (21.6 mL, 155 mmol) and heat to 80° C. in a sealed tube for 1.5 h. Cool to room temperature and dilute with ethyl acetate. Wash with a 50% saturated aqueous solution of sodium bicarbonate. Back-extract the aqueous layer three times with dichloromethane and twice with ethyl acetate until the aqueous layer is no longer an emulsion. Combine all organic layers and wash with a saturated aqueous solution of sodium chloride, dry (sodium sulfate), filter and concentrate. Dissolve the residue in ethyl acetate and filter through diatomaceous earth then purify by silica gel chromatography, eluting with a gradient from 95:5 to 80:20 (90:10 hexanes:ethyl acetate):dichloromethane. Further purify by silica gel chromatography, eluting with dichloromethane then 95:5 dichloromethane:ethyl acetate, to give the title compound as a white crystalline solid (1.8 g, 71%).

reactant | 5-ethynylnicotinonitrile | 11.7 mmol, 1.50 g | C(#C)C=1C=NC=C(C#N)C1 | C8H4N2
reactant | 1-fluoro-3-iodobenzene | 11.1 mmol, 1.31 mL | FC1=CC(=CC=C1)I | C6H4FI
reactant | triethylamine | 155 mmol, 21.6 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.56 mmol, 390 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 1.11 mmol, 211 mg | [Cu]I
product | 5-(3-Fluorophenylethynyl)-nicotinonitrile | 1.8 g, 71% | FC=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C14H7FN2
